US05041679
The same procedure as in Production example 27 was repeated except that 59.6 g of a toluene solution containing 41.6% of 2-methyl-3-(4-trifluoromethylphenylthio)propanal was used in place of the toluene solution containing 3-(4-trifluoromethylphenylthio)butanal. Thus, 36.67 g of crude 4-hydroxy-5-methyl-6-(4-trifluoromethylphenylthio)-2-hexanone were obtained (purity: 59.3%, yield: 71.1%).

reactant | 2-methyl-3-(4-trifluoromethylphenylthio)propanal | CC(C=O)CSC1=CC=C(C=C1)C(F)(F)F | C11H11F3OS
reactant | 3-(4-trifluoromethylphenylthio)butanal | FC(C1=CC=C(C=C1)SC(CC=O)C)(F)F | C11H11F3OS
reactant | toluene | 59.6 g | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-5-methyl-6-(4-trifluoromethylphenylthio)-2-hexanone | 36.67 g, yield: 71.1% | OC(CC(C)=O)C(CSC1=CC=C(C=C1)C(F)(F)F)C | C14H17F3O2S
